US09382188B2
A) 4-((tert-butoxycarbonyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate
To a solution of 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate (1.97 g), di-tert-butyl dicarbonate (1.4 mL) and N,N-diisopropylethylamine (1.2 mL) in THF (40 mL) was added 4-dimethylaminopyridine (69 mg), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.13 g) as a white solid.

reactant | 2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate | 1.97 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F)(F)F | C14H10F4O5S
reactant | di-tert-butyl dicarbonate | 1.4 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 69 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-((tert-butoxycarbonyl)oxy)-2′-fluoro-5′-methoxybiphenyl-2-yl trifluoromethanesulfonate | 2.13 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)OC(=O)OC(C)(C)C)C1=C(C=CC(=C1)OC)F)(F)F | C19H18F4O7S
